US04365017
Preparation of Dye 7, Table II (4-Ethoxy-7-methoxybenzotelluropyrone Fluorosulfonate
Five g of 7-methoxybenzotelluropyrone was added to 20 ml of freshly distilled ethyl fluorosulfonate. The resulting mixture was stirred under nitrogen at 60° C. for 10 minutes. Two hundred ml of ether was added precipitating a red solid. The product was collected by filtration and recrystallized from acetonitrile to give 6.0 g (87%) of a red solid.

reactant | 7-methoxybenzotelluropyrone | COC1=CC2=C(C=CC[Te]2=O)C=C1 | C10H10O2Te
reactant | ethyl fluorosulfonate | FS(=O)(=O)OCC | C2H5FO3S
solvent | ether | Two hundred ml | CCOCC | C4H10O
product | 4-Ethoxy-7-methoxybenzotelluropyrone Fluorosulfonate | 6.0 g, 87% | FS(=O)(=O)O.C(C)OC1=CC[Te](C2=C1C=CC(=C2)OC)=O | InChI=1S/C12H14O3Te.FHO3S/c1-3-15-11-6-7-16(13)12-8-9(14-2)4-5-10(11)12;1-5(2,3)4/h4-6,8H,3,7H2,1-2H3;(H,2,3,4)
